US07405224B2
b) methyl 9-hydroxyxanthene-9-carboxylate 3a
48.05 g (0.2 mol) methyl xanthene-9-carboxylate are dissolved in 1200 mL of tetrahydrofuran and at 0° C. combined with 23.63 g (0.2 mol) of potassium tert-butoxide. Oxygen is the piped in for 2 hours at −10° C. to −5° C., then the mixture is acidified with 2 N aqueous hydrochloric acid and the majority of the solvent is distilled off. The residue remaining is extracted with ethyl acetate and water, the organic phase is extracted with aqueous Na2S2O5 solution, washed with water, and dried, and the solvent is distilled off. The product is purified by crystallization from diisopropylether and cyclohexane. Yield: 11.10 g white crystals (22% of theoretical yield)

reactant | methyl xanthene-9-carboxylate | 0.2 mol, 48.05 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)OC | C15H12O3
reactant | potassium tert-butoxide | 0.2 mol, 23.63 g | CC(C)([O-])C.[K+]
reactant | Oxygen | O=O | O2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 1200 mL | O1CCCC1 | C4H8O
product | methyl 9-hydroxyxanthene-9-carboxylate | OC1(C2=CC=CC=C2OC=2C=CC=CC12)C(=O)OC | C15H12O4
